US09210927B2
Preparation of Cyclopropyl(1-(4-vinylphenyl)-1H-1,2,4-triazol-5-yl)methanone (DI79)
To a stirred solution of 1-(4-vinyl-phenyl)-1H-[1,2,4]triazole (1 g, 5.8 mmol) in 25 mL of THF, was added n-BuLi (0.37 g, 5.8 mmol) at −78° C. and stirred for 30 min. To this N-methoxy N-methylcyclopropoxide in THF (0.82 g, 6.4 mmol) was added and the resultant reaction mixture was stirred at ambient temperature for 16 h. The reaction mixture was quenched with a saturated aqueous NH4Cl solution and extracted with EtOAc (3×25 mL). The combined EtOAc layer was washed with brine and dried over sodium sulphate and concentrated under reduced pressure. The crude compound was purified by flash chromatography (SiO2, 100-200 mesh, 40% EtOAc in Pet ether) to afford the title compound as an off white solid (420 mg, 30%): mp 90-91° C.; 1H NMR (400 MHz, CDCl3) δ 8.12 (s, 1H), 7.50 (d, J=7.8 Hz, 2H), 7.38 (d, J=7.8 Hz, 2H), 6.75 (dd, J=16.3, 10.7 Hz, 1H), 5.81 (d, J=16.3 Hz, 1H), 5.35 (d, J=10.7 Hz, 1H), 3.22 (m, 1H), 1.27 (m, 2H), 1.18 (m, 2H); ESIMS m/z 240.18 ([M+H]+); IR (thin film) 2922, 1630 cm−1.

reactant | 1-(4-vinyl-phenyl)-1H-[1,2,4]triazole | 5.8 mmol, 1 g | C(=C)C1=CC=C(C=C1)N1N=CN=C1 | C10H9N3
reactant | n-BuLi | 5.8 mmol, 0.37 g | [Li]CCCC
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 6.4 mmol, 0.82 g | C1CCOC1 | C4H8O
product | Cyclopropyl(1-(4-vinylphenyl)-1H-1,2,4-triazol-5-yl)methanone | C1(CC1)C(=O)C1=NC=NN1C1=CC=C(C=C1)C=C | C14H13N3O
